US06608070B1
* 5-bromoacetylthiazole hydrobromide was prepared from 5-acetylthiazole according to the procedure for preparing 2-bromoacetyl-4-methylpyridine hydrobromide described in step 2 of Example 31.

reactant | 5-acetylthiazole | C(C)(=O)C1=CN=CS1 | C5H5NOS
reactant | 2-bromoacetyl-4-methylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1)C
product | 5-bromoacetylthiazole hydrobromide | Br.BrCC(=O)C1=CN=CS1 | InChI=1S/C5H4BrNOS.BrH/c6-1-4(8)5-2-7-3-9-5;/h2-3H,1H2;1H
